US09399649B2
A mixture of 5-fluoro-2-iodobenzoic acid (9.04 g, 34.0 mmol), but-3-yn-2-ol (5.7 mL, 5.46 g, 78.0 mmol), ZnCl2 (4.62 g, 34.0 mmol), Pd(Ph3P)4 (1.96 g, 1.7 mmol), Et3N (14.2 mL, 10.3 g, 102.0 mmol) and DMF (50 mL) was stirred under argon at 100° C. for 2 hours. After the removal of the volatiles under vacuum, the residue was chromatographed (silica gel, ethyl acetate in hexanes, 0-50%) to provide intermediate 7-fluoro-3-(1-hydroxyethyl)-1H-isochromen-1-one as a brown oil (5.93 g, 84%). MS m/z 209.2 [M+H]+; 1H NMR (500 MHz, CDCl3-d): 6 ppm 7.91-7.96 (1H, m), 7.43-7.47 (2H, m), 6.55-6.59 (1H, m), 4.67 (1H, q, J=6.52 Hz), 1.57 (3H, d, J=6.62 Hz).

reactant | 5-fluoro-2-iodobenzoic acid | 34.0 mmol, 9.04 g | FC=1C=CC(=C(C(=O)O)C1)I | C7H4FIO2
reactant | but-3-yn-2-ol | 78.0 mmol, 5.7 mL, 5.46 g | CC(C#C)O | C4H6O
reactant | Et3N | 102.0 mmol, 14.2 mL, 10.3 g | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 34.0 mmol, 4.62 g | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(Ph3P)4 | 1.7 mmol, 1.96 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 7-fluoro-3-(1-hydroxyethyl)-1H-isochromen-1-one | 5.93 g, 84% | FC1=CC=C2C=C(OC(C2=C1)=O)C(C)O | C11H9FO3
